US04585796
A mixture of 13.6 g of 4-amino-3,5-dichlorophenacyl bromide and 4.6 g of (R)-1-methyl-3-(4-aminocarbonylphenyl)propylamine in 100 ml of chloroform was warmed to 50° for 3 hours. The mixture was evaporated in vacuo, the residue was dissolved in 200 ml of methanol was 70 ml of water and a solution of 3.0 g of sodium borohydride in 20 ml of water was added dropwise thereto while cooling with ice and stirring so that the temperature did not rise above 20°. After completion of the addition, the mixture was stirred at 5°-10° for a further 2 hours, then poured into ice-water and extracted with methylene chloride. The material isolated from the methylene chloride extract was chromatographed on silica gel. With chloroform/n-propanol/25% ammonia (1000:10:1) there was obtained pure p-[(R)-3-[bis-[(RS)-4-amino-3,5-dichloro-β-hydroxyphenethyl]amino]butyl]benzamide in amorphous form; [α]D20 =-46° (c=1.0% in methanol); ε242 =31080; ε302 =7250.

reactant | 4-amino-3,5-dichlorophenacyl bromide | 13.6 g | NC1=C(C=C(C(CBr)=O)C=C1Cl)Cl | C8H6BrCl2NO
reactant | (R)-1-methyl-3-(4-aminocarbonylphenyl)propylamine | 4.6 g | C[C@H](CCC1=CC=C(C=C1)C(=O)N)N | C11H16N2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | p-[(R)-3-[bis-[(RS)-4-amino-3,5-dichloro-β-hydroxyphenethyl]amino]butyl]benzamide | NC1=C(C=C(C(CN([C@@H](CCC2=CC=C(C(=O)N)C=C2)C)CC(C2=CC(=C(C(=C2)Cl)N)Cl)O)O)C=C1Cl)Cl | C27H30Cl4N4O3
